US07087626B2
5-(tert-Butyl-dimethyl-silyloxy)-4-hydroxy-pentanoic acid ethyl ester
A solution of 4,5-dihydroxy-pentanoic acid ethyl ester, (7 g, 43.2 mmol) and 4-dimethylaminopyridine (0.2 g, 1.73 mmol) in dichloromethane (145 mL) at room temperature under nitrogen is treated with tert-butyl-dimethyl-silyl chloride (7.8 g, 51.85 mmol) and triethylamine (6.9 mL, 47.52 mmol) and stirred 18 h. The mixture is diluted with dichloromethane (100 mL), washed with water (100 mL), saturated ammonium chloride solution, and brine. The solution is filtered and concentrated in vacuo to yield the title compound, 11.85 g (99%), as a colorless oil.

reactant | 4,5-dihydroxy-pentanoic acid ethyl ester | 43.2 mmol, 7 g | C(C)OC(CCC(CO)O)=O | C7H14O4
reactant | tert-butyl-dimethyl-silyl chloride | 51.85 mmol, 7.8 g | C(C)(C)(C)[Si](C)(C)Cl | C6H15ClSi
reactant | triethylamine | 47.52 mmol, 6.9 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-dimethylaminopyridine | 1.73 mmol, 0.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dichloromethane | 145 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 100 mL | ClCCl | CH2Cl2
product | 5-(tert-Butyl-dimethyl-silyloxy)-4-hydroxy-pentanoic acid ethyl ester | C(C)OC(CCC(CO[Si](C)(C)C(C)(C)C)O)=O | C13H28O4Si
